US08232283B2
2,6-Dichloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-isonicotinamide
To a solution of 2,6-dichloroisonicotinic acid (0.37 g) in 10 ml THF was added diisopropylethylamine (0.449 ml) followed by HATU (0.733 g). After 10 min 1 ml DCM and 2 ml DMF were added. Then 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin-7(8H)-one (0.5 g) was added as solution in THF (10 ml) with 1 ml DCM and 2 ml DMF. The reaction was stirred at r.t. for 1 h. The reaction mixture was diluted with 10 ml DCM, treated with 5 ml methanol and evaporated on 15 g alox (neutral).

reactant | 2,6-dichloroisonicotinic acid | 0.37 g | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | diisopropylethylamine | 0.449 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.733 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(5-amino-2-chlorophenyl)-2-(2-(dimethylamino)ethylamino)-8-methoxypyrido[2,3-d]pyrimidin-7(8H)-one | 0.5 g | NC=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2)NCCN(C)C)N(C1=O)OC)Cl | C18H21ClN6O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2,6-Dichloro-N-(4-chloro-3-(2-(2-(dimethylamino)ethylamino)-8-methoxy-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-yl)phenyl)-isonicotinamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=CC3=C(N=C(N=C3)NCCN(C)C)N(C2=O)OC)C=C(N1)Cl | C24H22Cl3N7O3
